US08470841B2
N-{3-[4-(6-Hydroxypyridin-3-yloxy)phenyl]-1-methylpropyl}acetamide (168 mg, 1.49 mmol) was reacted with 2-iodopropane in analogy to example 36f. Yield: 26 mg (15%), M+H+: 343.20. N-{3-[4-(1-Isopropyl-6-oxo-1,6-dihydropyridin-3-yloxy)phenyl]1-methylpropyl}acetamide was obtained as by-product.

reactant | N-{3-[4-(6-Hydroxypyridin-3-yloxy)phenyl]-1-methylpropyl}acetamide | 1.49 mmol, 168 mg | OC1=CC=C(C=N1)OC1=CC=C(C=C1)CCC(C)NC(C)=O | C17H20N2O3
reactant | 2-iodopropane | IC(C)C | C3H7I
product | N-{3-[4-(1-Isopropyl-6-oxo-1,6-dihydropyridin-3-yloxy)phenyl]1-methylpropyl}acetamide | C(C)(C)N1C=C(C=CC1=O)OC1=CC=C(C=C1)CCC(C)NC(C)=O | C20H26N2O3
